US07816558B2
2-(Benzyloxy)-5-bromobenzonitrile and triisopropyl borate were dissolved in a mixed solvent of THF and toluene, and at −78° C., an n-butyllithium/hexane solution was dropwise added. This was heated up to room temperature, and 1 M hydrochloric acid was added to the reaction mixture, followed by stirring to obtain [4-(benzyloxy)-3-cyanophenyl]boric acid. ES: 254.

reactant | 2-(Benzyloxy)-5-bromobenzonitrile | C(C1=CC=CC=C1)OC1=C(C#N)C=C(C=C1)Br | C14H10BrNO
reactant | triisopropyl borate | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-butyllithium hexane | C(CCC)[Li].CCCCCC
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [4-(benzyloxy)-3-cyanophenyl]boric acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OB(O)O)C#N | C14H12BNO4
